US08278649B2
Step 2: Synthesis of 4-(9-phenyl-9H-carbazol-3-yl)diphenylamine (PCBA)
Into a 500 mL three-neck flask were put 6.5 g (26 mmol) of 4-bromodiphenylamine, 7.5 g (26 mmol) of 9-phenyl-9H-carbazole-3-boronic acid, and 400 mg (1.3 mmol) of tri(o-tolyl)phosphine. The air in the flask was replaced with nitrogen. To the mixture were added 100 mL of toluene, 50 mL of ethanol, and 14 mL (0.2 mol/L) of an aqueous solution of potassium carbonate. Under reduced pressure, this mixture was degassed while being stirred. After the degassing, 67 mg (30 mmol) of palladium(II) acetate was added to the mixture. This mixture was refluxed at 100° C. for 10 hours. After the reflux, an organic layer of the mixture was separated, an aqueous layer was extracted with toluene, and the extracted solution was combined with the organic layer and then washed with a saturated saline solution. The combined organic layer was dried with magnesium sulfate. After the drying, this mixture was subjected to gravity filtration. The obtained filtrate was condensed to give an oily light brown substance. This oily substance was purified by silica gel column chromatography (a developing solvent was a mixed solvent of hexane:toluene=4:6). A white solid obtained after the purification was recrystallized with a mixed solution of dichloromethane and hexane to give 4.9 g of a white solid, which was the object of the synthesis, in a yield of 45%. A synthesis scheme of Step 2 is shown in (a-2) given below.

reactant | 4-bromodiphenylamine | 26 mmol, 6.5 g | C1=CC=C(C=C1)NC2=CC=C(C=C2)Br | C12H10BrN
reactant | 9-phenyl-9H-carbazole-3-boronic acid | 26 mmol, 7.5 g | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)B(O)O | C18H14BNO2
reactant | tri(o-tolyl)phosphine | 1.3 mmol, 400 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium(II) acetate | 30 mmol, 67 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(9-phenyl-9H-carbazol-3-yl)diphenylamine | 4.9 g, yield of 45% | C1=CC=C(C=C1)NC2=CC=C(C=C2)C3=CC4=C(C=C3)N(C5=CC=CC=C54)C6=CC=CC=C6 | C30H22N2
